US08012976B2
9-Isopropyl-8-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one
Methyl 3-isopropyl-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate (35 mg, 1 mmol) and hydrazine monohydrate (20 mL) were added and the mixture was stirred under 40° C. for 3 h. The resulting mixture was extracted with ethyl acetate (100 mL×4) and concentrated, purified with prep-HPLC. 7 mg of solid 9-isopropyl-8-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one was obtained (yield: 15%). 1H-NMR (400 MHz, DMSO-d6): δ 0.82-0.83 (d, J=5.2 Hz, 3H), 1.15-1.17 (d, J=5.2 Hz, 3H), 1.89-1.93 (m, 1H), 2.71-2.73 (d, J=6.0 Hz, 1H), 4.83 (s, 1H), 7.11-7.26 (m, 7H), 7.51-7.54 (m, 2H), 12.11 (s, 1H). LC-MS (ESI) m/z: 306 (M+1)+.

reactant | Methyl 3-isopropyl-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | 1 mmol, 35 mg | C(C)(C)C1C(NC=2C=CC=C(C2C1=O)C(=O)OC)C1=CC=CC=C1 | C20H21NO3
reactant | hydrazine monohydrate | 20 mL | O.NN
product | 9-Isopropyl-8-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 7 mg, yield: 15% | C(C)(C)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=CC=C2 | C19H19N3O
